US07091199B1
Preparation of (3,4-difluoro-benzyl)-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-amine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, 3,4-difluorobenzylamine and acetonitrile essentially as described above in example 48. Purity by LC/MS (APCI)=98%, [M+H]+=401.

reactant | 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-difluorobenzylamine | FC=1C=C(CN)C=CC1F | C7H7F2N
solvent | acetonitrile | C(C)#N | C2H3N
product | (3,4-difluoro-benzyl)-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-amine | FC=1C=C(CNCCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=CC1F | C21H18F2N2O2S
